US09340538B2
Step B: 4-((2-(5-chlorothiazol-4-yl)-6-(2,4-dichlorophenyl)-5-(ethoxycarbonyl)-3,6-dihydropyrimidin-4-yl)methyl)morpholine-3-carboxylic acid
Ethyl 6-(bromomethyl)-2-(5-chlorothiazol-4-yl)-4-(2,4-dichlorophenyl)-1,4-dihydropyrimidine-5-carboxylate (0.78 g, 1.53 mmol) was reacted with morpholine-3-carboxylic acid (0.2 g, 1.53 mmol) according to the procedure as described in Example 28 to give the title compound as a yellow solid (0.29 g, 34%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 6-(bromomethyl)-2-(5-chlorothiazol-4-yl)-4-(2,4-dichlorophenyl)-1,4-dihydropyrimidine-5-carboxylate | 1.53 mmol, 0.78 g | BrCC1=C(C(N=C(N1)C=1N=CSC1Cl)C1=C(C=C(C=C1)Cl)Cl)C(=O)OCC | C17H13BrCl3N3O2S
reactant | morpholine-3-carboxylic acid | 1.53 mmol, 0.2 g | N1C(COCC1)C(=O)O | C5H9NO3
product | 4-((2-(5-chlorothiazol-4-yl)-6-(2,4-dichlorophenyl)-5-(ethoxycarbonyl)-3,6-dihydropyrimidin-4-yl)methyl)morpholine-3-carboxylic acid | 0.29 g, 34% | ClC1=C(N=CS1)C1=NC(C(=C(N1)CN1C(COCC1)C(=O)O)C(=O)OCC)C1=C(C=C(C=C1)Cl)Cl | C22H21Cl3N4O5S
